US06919356B2
Part K: Preparation of 3-(4-fluorophenyl)-2,2-dimethyl-propionic acid ethyl ester
A solution of ethyl isobutyrate (11.03 g, 95 mmol) in tetrahydrofuran (75 mL) was added dropwise to a mixture of a solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1.0 M, 100 mL, 100 mmol) and tetrahydrofuran (100 mL) at −78° C. over 15 minutes. The resulting solution was stirred at −78° C. for 45 minutes, and then treated with a solution of 1-bromomethyl-4-fluorobenzene (11.5 mL, 92 mmol) in tetrahydrofuran (25 mL) over 5 minutes. The cooling bath was removed, and the reaction mixture was stirred for 18 hours at room temperature. 1.0 N aqueous hydrochloric acid was added, and the layers were separated. The aqueous phase was extracted with ethyl acetate, and the combined organic phases were washed with 1.0 N aqueous hydrochloric acid, dried over sodium sulfate, and concentrated under vacuum to provide a brown liquid (20.7 g, quantitative) used without further purification. 1H NMR (300 MHz, CDCl3) δ7.07 (m, 2H), 6.94 (t, J=9 Hz, 2H), 4.10 (q, J=7 Hz, 2H), 2.82 (s, 2H), 1.23 (t, J=7 Hz, 3H), 1.16 (s, 6H).

reactant | ethyl isobutyrate | 95 mmol, 11.03 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-bromomethyl-4-fluorobenzene | 92 mmol, 11.5 mL | BrCC1=CC=C(C=C1)F | C7H6BrF
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mmol, 1.0 M, 100 mL | O1CCCC1 | C4H8O
product | 3-(4-fluorophenyl)-2,2-dimethyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)F)(C)C)=O | C13H17FO2
